US04952690
4-ethylthiothiocarbonylthio-3-isopropyl-2-oxoazetidine (racemic trans-compound)
A solution of 230 mg of potassium ethyl trithiocarbonate in 1.5 ml of water is added dropwise at room temperature, in a nitrogen atmosphere, to a solution of 195 mg (1.14 mmole) of 4-acetoxy-3-isopropylazetidin-2-one (racemic mixture of cis- and trans-isomer in the ratio of 1:3) in 1 ml of water and 0.2 ml of acetone and the mixture is stirred at the same temperature for 120 minutes. The reaction mixture is exhaustively extracted with methylene chloride. The combined organic phases are dried over sodium sulphate and concentrated by evaporation in vacuo. The residue is chromatographed over 12 g of silica gel with toluene/ethyl acetate (9:1) and yields the trans-title compound. Melting point: 65°-66° TLC: Rf =0.5 (toluene/ethyl acetate 2:3]; IR spectrum (CH2Cl2): absorption bands at 2.95, 3.37, 5.62 and 9.25μ. NMR spectrum (in CDCl3 /100 Mc, in ppm): 6.65, 1H, m (exchange with D2O); 5.4, 1 H, d (J=2.5 Hz): 3.39, 2H, q; 3.05, 1H, m; 2.15, 1H, m: 1.38, 3H, t; 1.1, 6H, m.

reactant | potassium ethyl trithiocarbonate | 230 mg | C(SCC)([S-])=S.[K+]
reactant | 4-acetoxy-3-isopropylazetidin-2-one | 1.14 mmole, 195 mg | C(C)(=O)OC1C(C(N1)=O)C(C)C | C8H13NO3
reactant | acetone | 0.2 ml | CC(=O)C | C3H6O
reactant | toluene ethyl acetate | C1(=CC=CC=C1)C.C(C)(=O)OCC
solvent | water | 1.5 ml | O | H2O
solvent | water | 1 ml | O | H2O
product | 4-ethylthiothiocarbonylthio-3-isopropyl-2-oxoazetidine | C(C)SC(=S)SC1C(C(N1)=O)C(C)C | C9H15NOS3
